US04977175
N-Methyl-N-(4-methyl-2-nitrophenyl)formamide, 20 g (103 mmols), was added to 400 ml of ethanol and a solution of sodium hydrosulfite, 54g (310 mmols) in 300ml of water was added dropwise to the mixture at 80° C. After stirring at 80° C. for 7 hours, the mixture was stirred at room temperature for further 16 hours. The solvent was distilled off under reduced pressure and 200 ml of 1N sodium hydroxide aqueous solution was added to the residue followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and evaporated. The resulting crystals were washed with ether to give 10.0 g (67,3%) of 1,5-dimethylbenzimidazole.

reactant | N-Methyl-N-(4-methyl-2-nitrophenyl)formamide | CN(C=O)C1=C(C=C(C=C1)C)[N+](=O)[O-] | C9H10N2O3
reactant | ethanol | 400 ml | C(C)O | C2H6O
reactant | sodium hydrosulfite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 300ml | O | H2O
product | 1,5-dimethylbenzimidazole | 10.0 g, 67,3% | CN1C=NC2=C1C=CC(=C2)C | C9H10N2
